US08541424B2
(S)-benzyl 2-(4-(tert-butoxycarbonylamino)phenylcarbamoyl)pyrrolidine-1-carboxylate
To a solution of Carbobenzyloxy-L-proline (0.20 g, 0.80 mmol) and HATU (0.32 g, 0.84 mmol) in DMSO (6 mL) was added diisopropylethylamine (0.42 mL, 2.41 mmol) followed by tert-buty-4-aminophenylcarbamate (0.175 g, 0.82 mmol). The solution was stirred at ambient temperature for two hours, then diluted with water and the solid product was filtered off and purified by combi-flash 12 g column, eluting with 0-20% ethyl acetate in dichloromethane to give a solid (0.245 g, 70%).

reactant | Carbobenzyloxy-L-proline | 0.80 mmol, 0.20 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | HATU | 0.84 mmol, 0.32 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.41 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-buty-4-aminophenylcarbamate | 0.82 mmol, 0.175 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)N)=O | C11H16N2O2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (S)-benzyl 2-(4-(tert-butoxycarbonylamino)phenylcarbamoyl)pyrrolidine-1-carboxylate | 0.245 g, 70% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C24H29N3O5
